US08835428B2
(S)-2-({3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carbonyl}-amino)-3-hydroxy-propionic acid
(S)-2-({3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carbonyl}-amino)-3-hydroxyl-propionic acid methyl ester was hydrolyzed by IN NaOH in MeOH to obtain the title compound in 53% yield. Mass (ES−): 443 (M++1); IR (KBr): 3435 (br), 3306, 171718, 1683, 1609, 1590, 1571 (br), 1439; 1H NMR (DMSO-d6) δ: 3.83 (m, 2H), 4.47 (m, 1H), 7.20 (m, 1H), 7.66 (m, 1H), 7.73 (s, 1H), 7.78 (m, 1H), 7.94 (br, 4H), 8.95 (d, 1H), 10.89 (br, COOH).

reactant | (S)-2-({3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carbonyl}-amino)-3-hydroxyl-propionic acid methyl ester | COC([C@H](CO)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)F)=O | C21H17FN4O5S
solvent | NaOH | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | (S)-2-({3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carbonyl}-amino)-3-hydroxy-propionic acid | 53% yield | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=NOC(=C2)C(=O)N[C@H](C(=O)O)CO)C=C1 | C20H15FN4O5S
